US04640708
2,3-Dimethylnaphthalene (20.0 g), N-bromosuccinimide (22.8 g) and benzoyl peroxide (0.2 g) were refluxed in carbon tetrachloride (160 ml) for 12 hr. After cooling, the mixture was filtered. The filtrate was evaporated under reduced pressure and the residue was dissolved in chloroform. This solution was added dropwise to a vigorously stirred solution of hexamethylenetetramine (1.2 equiv) in chloroform (100 ml) and the mixture was heated at reflux for 12 hr. After cooling the salt was filtered off and was washed with several portions of hexane. The dried salt was heated at reflux with a 50% aqueous acetic acid solution (20 ml/g) for 2 hr. Concentrated hydrochloric acid (2 ml/g) was added and the mixture was heated at reflux for a further 15 min. The solution was poured onto ice-water and the resulting mixture was extracted with ether. The dried (MgSO4) organic fraction was evaporated and the residue was purified by recrystallization (twice) from hexane to give 3-methylnaphthalene-2-carboxaldehyde as cream-coloured clusters, mp 119° C. Pmr spectrum (CDCl3 ; δ in ppm): 2.75 (3H,s); 7.32-7.98 (5H,m); 8.24 (1H,s); 10.27 (1H,s). 6-Methylnaphthalene-2-carboxaldehyde was similarly prepared from 2,6-dimethylnaphthalene and was obtained as a white solid, mp 120° C. Pmr spectrum (CDCl3; δ in ppm): 2.58 (3H,s); 7.38-8.07 (5H,m); 8.30 (1H,s); 10.14 (1H,s).

reactant | 2,3-Dimethylnaphthalene | 20.0 g | CC1=CC2=CC=CC=C2C=C1C | C12H12
reactant | N-bromosuccinimide | 22.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | hexamethylenetetramine | 1.2 equiv | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | carbon tetrachloride | 160 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methylnaphthalene-2-carboxaldehyde | CC=1C(=CC2=CC=CC=C2C1)C=O | C12H10O
